US08058299B2
A mixture of 5-nitro-2-chloro-pyridine (2 g, 12.6 mmol), piperidine-4-carboxylic acid amide (1.78 g, 13.9 mmol), and potassium carbonate (3.48 g, 25.2 mmol) in anhydrous 1,4 dioxane (65 mL) was heated in an oil bath at 100° C. for 5 hr. The reaction was diluted with water (500 mL) and extracted with ethyl acetate (500 mL). The resulting yellow precipitate that form in both layers was filtered off and washed with minimal ethyl acetate, dichloromethane, and hexanes, and dried. The aqueous layer was extracted with dichloromethane (three times with 200 mL each). This dichloromethane layer was washed with brine, combined with the original ethyl acetate extract dried over sodium sulfate, and concentrated to a yellow solid. The yellow solid and the original yellow filtered precipitate were combined to give 5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid amide (2.93 g, 112%) as a yellow solid. LCMS calcd for C11H14N4O3 (m/e) 250, obsd 251 (M+H).

reactant | 5-nitro-2-chloro-pyridine | 12.6 mmol, 2 g | [N+](=O)([O-])C=1C=CC(=NC1)Cl | C5H3ClN2O2
reactant | piperidine-4-carboxylic acid amide | 13.9 mmol, 1.78 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | potassium carbonate | 25.2 mmol, 3.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4 dioxane | 65 mL | O1CCOCC1 | C4H8O2
solvent | water | 500 mL | O | H2O
product | 5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid amide | 2.93 g, 112% | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)C(=O)N | C11H14N4O3
